US08003692B2
3-(3-Methoxy-phenyl)-cyclohex-2-enone (FI-15).
Synthesized from 3-bromocyclohex-2-enone and 3-methoxyphenylboronic acid according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography using gradient elution (0 to 80% ethyl acetate/hexanes) yielded the product (141 mg, 88%) as a pale yellow solid. 1H NMR (300 MHz, CDCl3): δ 7.30 (t, J=8.0 Hz, 1H), 7.10 (dd, J=8.0, 0.8 Hz, 1H), 7.03 (t, J=2.2 Hz, 1H), 6.93 (dd, J=8.3, 2.5 Hz, 1H), 6.39 (bs, 1H), 3.82 (s, 3H), 2.75 (td, J=6.1, 0.8 Hz, 2H), 2.48 (t, J=6.3 Hz, 2H), 2.14 (quintet, J=6.1 Hz, 2H).

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | 3-methoxyphenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 3-(3-Methoxy-phenyl)-cyclohex-2-enone | 141 mg, 88% | COC=1C=C(C=CC1)C1=CC(CCC1)=O | C13H14O2
